US07723369B2
2-Chloro-4-{4-[4-(2,4-dichloro-phenyl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-phenyl}-pyridine (1.6 g, 3 mmol) was refluxed with 6M NaOH in 1/1 water/ethanol (10 mL, 60 mmol) for 2 to 4 hours, followed by regular ethyl acetate/water workup and silica gel column chromatography to give the intermediate 4-{4-[4-(2,4-dichloro-phenyl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-phenyl}-1H-pyridin-2-one, which was then treated as described in general procedure L [using iodocyclohexane (0.78 mL, 6 mmol)] to give 1-cyclohexyl-4-{4-[4-(2,4-dichloro-phenyl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-phenyl}-1H-pyridin-2-one.

reactant | 2-Chloro-4-{4-[4-(2,4-dichloro-phenyl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-phenyl}-pyridine | 3 mmol, 1.6 g | ClC1=NC=CC(=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C27H17Cl3N4O2
reactant | NaOH | 6M | [OH-].[Na+]
reactant | water ethanol | 60 mmol, 10 mL | O.C(C)O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-{4-[4-(2,4-dichloro-phenyl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-phenyl}-1H-pyridin-2-one | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)C1=CC(NC=C1)=O | C27H18Cl2N4O3
